*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-700
* Inductance = 0.07uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-700_freq port1 port2 PARAMS: Cpar=70pF Ind=0.07uH
X1 port1 port2 Model1A PARAMS:
+ R1=55
+ R2=0.228
+ C= {Cpar}
+ K1=0.00006
+ K2=0.011
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31.2721125
.ends SLC1175-700_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-700
* Inductance = 0.07uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-700_imp port1 port2 PARAMS: Cpar=84.33pF Ind=0.07uH
X1 port1 port2 Model1D PARAMS:
+ R1=55
+ R2=0.228
+ C= {Cpar}
+ K1=0.00006
+ K2=0.011
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31.2721125
.ends SLC1175-700_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-121
* Inductance = 0.12uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-121_freq port1 port2 PARAMS: Cpar=70pF Ind=0.12uH
X1 port1 port2 Model1A PARAMS:
+ R1=55
+ R2=0.228
+ C= {Cpar}
+ K1=0.00006
+ K2=0.014
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39.4290305
.ends SLC1175-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-121
* Inductance = 0.12uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-121_imp port1 port2 PARAMS: Cpar=78.05pF Ind=0.12uH
X1 port1 port2 Model1D PARAMS:
+ R1=55
+ R2=0.228
+ C= {Cpar}
+ K1=0.00006
+ K2=0.014
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39.4290305
.ends SLC1175-121_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-151
* Inductance = 0.15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-151_freq port1 port2 PARAMS: Cpar=75pF Ind=0.15uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.228
+ C= {Cpar}
+ K1=0.00005
+ K2=0.016
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42.0561876
.ends SLC1175-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-151
* Inductance = 0.15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-151_imp port1 port2 PARAMS: Cpar=81.75pF Ind=0.15uH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=0.228
+ C= {Cpar}
+ K1=0.00005
+ K2=0.016
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42.0561876
.ends SLC1175-151_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-171
* Inductance = 0.17uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-171_freq port1 port2 PARAMS: Cpar=85pF Ind=0.17uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.228
+ C= {Cpar}
+ K1=0.00006
+ K2=0.019
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44.7964531
.ends SLC1175-171_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-171
* Inductance = 0.17uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-171_imp port1 port2 PARAMS: Cpar=91.62pF Ind=0.17uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.228
+ C= {Cpar}
+ K1=0.00006
+ K2=0.019
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44.7964531
.ends SLC1175-171_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-201
* Inductance = 0.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-201_freq port1 port2 PARAMS: Cpar=110pF Ind=0.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.02
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=41.9899233
.ends SLC1175-201_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-201
* Inductance = 0.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-201_imp port1 port2 PARAMS: Cpar=117.06pF Ind=0.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.02
+ K3= {Ind}
+ K4=-0.002
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=41.9899233
.ends SLC1175-201_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-231
* Inductance = 0.23uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-231_freq port1 port2 PARAMS: Cpar=100pF Ind=0.23uH
X1 port1 port2 Model1A PARAMS:
+ R1=58
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.019
+ K3= {Ind}
+ K4=-0.003
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44.5465941
.ends SLC1175-231_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-231
* Inductance = 0.23uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-231_imp port1 port2 PARAMS: Cpar=108.34pF Ind=0.23uH
X1 port1 port2 Model1D PARAMS:
+ R1=58
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.019
+ K3= {Ind}
+ K4=-0.003
+ K5=0.000018
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44.5465941
.ends SLC1175-231_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-271
* Inductance = 0.27uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-271_freq port1 port2 PARAMS: Cpar=105pF Ind=0.27uH
X1 port1 port2 Model1A PARAMS:
+ R1=66
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.021
+ K3= {Ind}
+ K4=-0.005
+ K5=0.000015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=46.8408633
.ends SLC1175-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-271
* Inductance = 0.27uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-271_imp port1 port2 PARAMS: Cpar=116.87pF Ind=0.27uH
X1 port1 port2 Model1D PARAMS:
+ R1=66
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.021
+ K3= {Ind}
+ K4=-0.005
+ K5=0.000015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=46.8408633
.ends SLC1175-271_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC1175-301_freq port1 port2 PARAMS: Cpar=100pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=70
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.022
+ K3= {Ind}
+ K4=-0.005
+ K5=0.000015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=49.7692339
.ends SLC1175-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC1175-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC1175-301_imp port1 port2 PARAMS: Cpar=110.13pF Ind=0.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=70
+ R2=0.228
+ C= {Cpar}
+ K1=0.00007
+ K2=0.022
+ K3= {Ind}
+ K4=-0.005
+ K5=0.000015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=49.7692339
.ends SLC1175-301_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
